US07732446B1
To a solution of 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester (520 mg, 1.34 mmol) in THF (10 ml) and H2O (10 ml) under nitrogen, LiOH—H2O (95 mg, 2.3 mmol) was added. The reaction was stirred at 50° C. for 3.5 hours and at then at room temperature for 18 hours. EtOAc and water were then added and the pH was adjusted to 5 by dropwise addition of 6N HCl. The layers were then separated and the aqueous phase was extracted with EtOAc. The combined organic layers were then washed with brine, dried over magnesium sulfate and filtered. The solvent was removed under reduced pressure to give 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid as a solid (464 mg, 96%). H1-NMR (DMSO): δ, 8.84 (s, 1H), 7.96 (s, 1H), 6.91 (t, 1H, J=5.4 Hz), 6.77 (s, 1H), 4.80 (d, 2H, J=5.43 Hz), 3.95 and 3.88 (s, 3H each), 1.36 (s, 9H).

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 1.34 mmol, 520 mg | C(C)OC(=O)C1=CN=C(C2=C(C=C(C=C12)OC)OC)CNC(=O)OC(C)(C)C | C20H26N2O6
reactant | LiOH—H2O | 2.3 mmol, 95 mg | O[Li].O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 6N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 10 ml | O | H2O
product | 1-(tert-butoxycarbonylamino-methyl)-6,8-dimethoxy-isoquinoline-4-carboxylic acid | 464 mg, 96% | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(=O)O | C18H22N2O6
